US06869969B2
5.1.2.110 Synthesis of 4-[3-(4-butanoyloxyphenyl)-4-ethylisoxazol-5-yl]phenyl butanoate
This compound was made as a derivative of the compound prepared according to Section 5.1.2.4. To a THF solution of 4-[4-ethyl-5-(4-hydroxyphenyl)isoxazol-3-yl]phenol was added butyryl chloride (3.0 eq.) and pyridine (3.0 eq). The mixture was stirred at rt for 24 h, poured into cold NaHCO3, extracted with EtOAc. The organic extracts were washed with brine, dried with Na2SO4 and concentrated in vacuo to give the product as a white powder.

reactant | 4-[4-ethyl-5-(4-hydroxyphenyl)isoxazol-3-yl]phenol | C(C)C=1C(=NOC1C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C17H15NO3
reactant | butyryl chloride | 3.0 eq. | C(CCC)(=O)Cl | C4H7ClO
reactant | pyridine | 3.0 eq | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-[3-(4-butanoyloxyphenyl)-4-ethylisoxazol-5-yl]phenyl butanoate | C(CCC)(=O)OC1=CC=C(C=C1)C1=C(C(=NO1)C1=CC=C(C=C1)OC(CCC)=O)CC | C25H27NO5
